US07956070B2
Step 1: Ethyl 5-amino-1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylate
Ethyl cyanoacetate (1.96 mL) was added to a solution of sodium ethoxide, prepared from sodium (0.423 g) and ethanol (45 mL), and the solution was stirred for 30 min. A solution of 4-methoxybenzylazide (3.0 g) in ethanol (5 mL) was added dropwise and the mixture was heated under reflux for 5 h. The cooled mixture was poured into water and acidified with dilute hydrochloric acid then extracted with ethyl acetate. The extracts were washed with water, brine and evaporated. Purification by flash chromatography (ethyl acetate/dichloromethane 1:9 then 15:85) gave the product as a pale yellow solid (0.85 g).

reactant | Ethyl cyanoacetate | 1.96 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.423 g | [Na] | Na
reactant | 4-methoxybenzylazide | 3.0 g | COC1=CC=C(CN=[N+]=[N-])C=C1 | C8H9N3O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 45 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | Ethyl 5-amino-1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylate | 0.85 g | NC1=C(N=NN1CC1=CC=C(C=C1)OC)C(=O)OCC | C13H16N4O3
